US09216182B2
b) 5-((tert-butyldimethylsilyloxy)methyl)-2-chloropyridine
A solution of (6-chloropyridin-3-yl)methanol (800 mg, 5.6 mmol) and TBSCl (1000 mg, 6.7 mmol) in THF (15 mL) was added imidazole (455 mg, 6.7 mmol) and the reaction mixture was stirred at rt for 24 h. The mixture was concentrated under vacuum to about ¼ of the original volume and then diluted with EtOAc (30 mL). The resulting mixture was washed with water, aqueous 5% KH2PO4 (30 mL), saturated NaHCO3 (20 mL) and brine (20 mL) sequentially. The organic phase was dried, filtered and concentrated to give the desired product as colorless oil (800 mg, 54%). [LCMS: RtA=1.89 min, m/z 258.2 [M+H]+].

reactant | (6-chloropyridin-3-yl)methanol | 5.6 mmol, 800 mg | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | TBSCl | 6.7 mmol, 1000 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 6.7 mmol, 455 mg | N1C=NC=C1 | C3H4N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-((tert-butyldimethylsilyloxy)methyl)-2-chloropyridine | 800 mg, 54% | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)Cl | C12H20ClNOSi
